US07867629B2
(2) Synthesis of 2-[4-(10-[1,1′;3′,1″]terphenyl-5′-yl-anthracen-9-yl)-phenyl]-imidazo [1,2-a] pyridine (Compound 14-5)
Two point five grams (5.5 mmol) of 2-[4-(10-bromo-anthracen-9-yl)-phenyl]-imidazo [1,2-a] pyridine, 1.6 g (5.8 mmol) of [1,1′;3′,1″] terphenyl-5′-boronic acid and 0.13 g of tetrakis (triphenylphosphine) palladium were dissolved into 20 milliliter of 1,2-dimethoxyethane, and adding 9 milliliter of 2.0M sodium carbonate aqueous solution, the resultant suspension was refluxed under heating for 8 hours. After completion of the reaction, separation with filtration was carried out and resultant crystals were washed with water and methanol, thereby obtaining 2.4 g of yellowish white solids (yield: 71%). As a result of mass spectrum (MS) analysis, the yellowish white solids were identified as the aimed substance, and it was recognized that m/e=598 for molecular weight of 598.24.

reactant | 2-[4-(10-bromo-anthracen-9-yl)-phenyl]-imidazo [1,2-a] pyridine | 5.5 mmol, five grams | BrC1=C2C=CC=CC2=C(C2=CC=CC=C12)C1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1 | C27H17BrN2
reactant | [1,1′;3′,1″] terphenyl-5′-boronic acid | 5.8 mmol, 1.6 g | C1(=CC=CC=C1)C1=CC(=CC(=C1)B(O)O)C1=CC=CC=C1 | C18H15BO2
reactant | sodium carbonate | 2.0M, 9 milliliter | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrakis (triphenylphosphine) palladium | 0.13 g | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | 1,2-dimethoxyethane | 20 milliliter | COCCOC | C4H10O2
product | 2-[4-(10-[1,1′;3′,1″]terphenyl-5′-yl-anthracen-9-yl)-phenyl]-imidazo [1,2-a] pyridine | 2.4 g, yield: 71% | C1(=CC=CC=C1)C1=CC(=CC(=C1)C1=C2C=CC=CC2=C(C2=CC=CC=C12)C1=CC=C(C=C1)C=1N=C2N(C=CC=C2)C1)C1=CC=CC=C1 | C45H30N2
